US09302989B2
Methyl 4-(isoindoline-2-carboxamido)benzoate
Isoindoline (1.693 ml, 14.47 mmol) was dissolved in tetrahydrofuran (20 ml) and cooled to 0° C.; and methyl 4-isocyanatobenzoate (2.18 g, 12.06 mmol) was added by syringe and the resulting mixture was warmed to ambient temperature, and then stirred overnight. The solution was concentrated to a slurry, diluted with ether, and filtered to provide the title compound.

reactant | Isoindoline | 14.47 mmol, 1.693 ml | C1NCC2=CC=CC=C12 | C8H9N
reactant | methyl 4-isocyanatobenzoate | 12.06 mmol, 2.18 g | N(=C=O)C1=CC=C(C(=O)OC)C=C1 | C9H7NO3
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Methyl 4-(isoindoline-2-carboxamido)benzoate | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)OC)C=C1 | C17H16N2O3
